US08541587B2
Synthesis of N-(1-{4′-[3-Methyl-4-(5-(3-methyl-phenyl)-pyridin-3-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide (Compound 11)
To a stirred solution of 1-(4′-{3-methyl-4-[5-(3-methyl-phenyl)-pyridin-3-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid (0.050 g, 0.1 mmol) in DCM (1 mL) at RT was added DMF (1 μL, 0.01 mmol) and oxalyl chloride (17 μL, 0.15 mmol). After 1 hr, the mixture was concentrated to dryness and re-dissolved in DCM (1 mL). To this solution was added methanesulfonamide (0.014 g, 0.15 mmol), DIEA (60 μL, 0.35 mmol), and DMAP (0.001 g). The resulting mixture was stirred for 5 min, then diluted with EtOAc (20 mL) and extracted with H2O (2×10 mL). The combined aqueous layers were back-extracted with EtOAc (10 mL). The combined organic layers were dried over MgSO4, filtered and concentrated. The crude residue was purified on reverse-phase preparative HPLC to afford the title compound.

reactant | 1-(4′-{3-methyl-4-[5-(3-methyl-phenyl)-pyridin-3-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid | 0.1 mmol, 0.050 g | CC1=NOC(=C1NC=1C=NC=C(C1)C1=CC(=CC=C1)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C32H27N3O3
reactant | DMF | 0.01 mmol, 1 μL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 0.15 mmol, 17 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methanesulfonamide | 0.15 mmol, 0.014 g | CS(=O)(=O)N | CH5NO2S
reactant | DIEA | 0.35 mmol, 60 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.001 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | N-(1-{4′-[3-Methyl-4-(5-(3-methyl-phenyl)-pyridin-3-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-methanesulfonamide | CC1=NOC(=C1NC=1C=NC=C(C1)C1=CC(=CC=C1)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C | C33H30N4O4S
